US07622589B2
2A) N-(2-methylphenyl)methanesulfonamide
To a solution of o-toluidine (1.07 ml, 10 mmol) and pyridine (0.86 ml, 10.6 mmol) in dichloromethane (2 mL) was added methanesulfonyl chloride (0.81 ml, 10.5 mmol) dropwise at 0° C. The reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was quenched by 1N HCl aqueous solution and extracted with EtOAc. The organic layer was concentrated in vacuo to afford the title compound (1.84 g, 10 mmol, quant.) as an orange solid.

reactant | o-toluidine | 10 mmol, 1.07 ml | NC=1C(=CC=CC1)C | C7H9N
reactant | pyridine | 10.6 mmol, 0.86 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 10.5 mmol, 0.81 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(2-methylphenyl)methanesulfonamide | 10 mmol, 1.84 g | CC1=C(C=CC=C1)NS(=O)(=O)C | C8H11NO2S
